US04353908
Preparation of 4-Ethoxycarbonyloxy-6-Methyl-2-Trichloromethylpyrimidine
To a solution of 3.0 g (0.013 mole) 4-hydroxy-6-methyl-2-trichloromethylpyrimidine, 1.4 g (0.013 mole) triethylamine, and 75 ml ether was added 1.4 g (0.013 mole) ethyl chloroformate. The reaction mixture was refluxed for 2 hours, filtered, and rotary evaporated under aspiration to give a dark oil. This was triturated with petroleum ether and the solution decanted from tars. The solvent was stripped in vacuo and the product distilled to give 2.7 g (67% yield; bp0.5 mm 125° C.). The structure was confirmed via infrared and elemental analysis.

reactant | 4-hydroxy-6-methyl-2-trichloromethylpyrimidine | 0.013 mole, 3.0 g | OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl | C6H5Cl3N2O
reactant | triethylamine | 0.013 mole, 1.4 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.013 mole, 1.4 g | ClC(=O)OCC | C3H5ClO2
solvent | ether | 75 ml | CCOCC | C4H10O
product | 4-Ethoxycarbonyloxy-6-Methyl-2-Trichloromethylpyrimidine | 67% yield | C(C)OC(=O)OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl | C9H9Cl3N2O3
